US05100900
Isopropyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-phenyl-quinolin-8-yl)-pyridine-5-carboxylate
1.17 g (5 mmol) of 2-phenyl-quinoline-8-aldehyde are boiled in 10 ml of ethanol with 0.9 g (8.75 mmol) of nitroacetone, 0.72 g (5 mmol) of ispropyl 3-aminocrotonate and 0.3 ml (5 mmol) of acetic acid for 1 hour. The precipitated crystals are filtered with suction after cooling and washed with ethanol. 1.1 g of orange-colored crystals of melting point 205° C. are obtained.

reactant | 2-phenyl-quinoline-8-aldehyde | 5 mmol, 1.17 g | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)C=O | C16H11NO
reactant | nitroacetone | 8.75 mmol, 0.9 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | 3-aminocrotonate | 5 mmol, 0.72 g | N\C(=C/C(=O)[O-])\C
reactant | acetic acid | 5 mmol, 0.3 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | Isopropyl 1,4-dihydro-2,6-dimethyl-3-nitro-4-(2-phenyl-quinolin-8-yl)-pyridine-5-carboxylate | 1.1 g | CC=1NC(=C(C(C1[N+](=O)[O-])C=1C=CC=C2C=CC(=NC12)C1=CC=CC=C1)C(=O)OC(C)C)C | C26H25N3O4
